US08859606B2
A mixture of 3-{1-[5-Bromo-2-(2-ethyl-butoxy)-benzyl]-5-methyl-1H-pyrazol-3-yl}-propionic acid methyl ester (0.0774 g, 0.18 mmol), [PdCl2(PPh3)]2 (0.007 g, 0.01 mmol), PPh3 (0.0094 g, 0.018 mmol) mmol), CuI (2 mg, 0.01 mmol), trimethylsilylacetylene (0.0196 g, 0.2 mmol), Et2N (0.07314 g, 2.72 mmol in DMF (1 ml) heated at 120° C. in a microwave reactor under a N2 atmosphere for 50 min. The mixture was partitioned between 0.1M HCl and EtOAc. The organic layer was washed with brine, dried (MgSO4) and evaporated to dryness. The residue was purified by MPLC (20 g SiO2 cartridge, eluent 90% iso-hexane-10% EtOAc) yielding 3-{1-[5-trimethylsilanylethynyl-2-(2-ethyl-butoxy)-benzyl]-5-methyl-1H-pyrazol-3-yl}-propionic acid methyl ester (0.0396 g). This was dissolved in THF (20 ml), MeOH (20 ml), glacial acetic acid (8 ml) and Bu4NF solution (24 ml, 1M) was added. The mixture was stirred at RT overnight then heated at 60° C. for 3 hours, thereafter cooled to RT and partitioned between sat. NH4Cl solution and EtOAc, the organic layer was washed with brine, dried (MgSO4) and evaporated to dryness. The residue was purified by MPLC (20 g SiO2 cartridge, eluent 85% iso-hexane-15% EtOAc) yielding 3-{1-[5-Ethynyl-2-(2-ethyl-butoxy)-benzyl]-5-methyl-1H-pyrazol-3-yl}-propionic acid methyl ester (0.0078 g) which was converted to the title compound following the method in Example 1, Step 8.

reactant | 3-{1-[5-Bromo-2-(2-ethyl-butoxy)-benzyl]-5-methyl-1H-pyrazol-3-yl}-propionic acid methyl ester | 0.18 mmol, 0.0774 g | COC(CCC1=NN(C(=C1)C)CC1=C(C=CC(=C1)Br)OCC(CC)CC)=O | C21H29BrN2O3
reactant | PPh3 | 0.018 mmol, 0.0094 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | trimethylsilylacetylene | 0.2 mmol, 0.0196 g | C[Si](C)(C)C#C | C5H10Si
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
catalyst | CuI | 0.01 mmol, 2 mg | [Cu]I
product | 3-{1-[5-trimethylsilanylethynyl-2-(2-ethyl-butoxy)-benzyl]-5-methyl-1H-pyrazol-3-yl}-propionic acid methyl ester | 0.0396 g | COC(CCC1=NN(C(=C1)C)CC1=C(C=CC(=C1)C#C[Si](C)(C)C)OCC(CC)CC)=O | C26H38N2O3Si
